Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-8.19010923
[C:1]=[O:2].[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],0.800897294621
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])([H:7])[H:8]>>[C:2](#[C:3][O:4])[C:5]([H:6])([H:7])[H:8].[O:1],5.26504108859
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:8][H:9].[H:7],2.23921877762
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.08425804289
[C:11]([H:12])([H:13])[O:14][H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-3.71364141264
[C:1][C:2]([H:3])=[C:4]([O:5][H:6])[O:7][H:8]>>[C:1]#[C:2][C:4]([O:5][H:6])[O:7][H:8].[H:3],2.05423221981
[O:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][H:5],4.22217303501
[C:10]([H:11])#[C:12][H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13],-1.01502423999
[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1].[O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],3.70584319354
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10].[H:4],2.33149224565
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.64306832105
[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.7641719098
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@@:7]1([H:8])[C:9][C:10]1[H:11]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]#[C:10][H:11],-1.53871593733
[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-0.6402558539509999
[H:1][O:2]/[C:3]=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.818746190480001
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.35603769584
[H:1][C:2]#[C:3][C:4][O:5][C:6][O:7][H:8]>>[C:3]#[C:4][O:5][C:6][O:7][H:8].[H:1][C:2],7.95659181805
[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.63979221619
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.81872112389
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3][H:4],4.73498664076
[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12],3.1974342534400004
[H:1][C:2]=[C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],1.53401736863
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C:4][O:5][H:6],4.67355879797
[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([C:3][H:4])=[C:5]([H:6])\[C:7]([H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13],1.55171791291
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[O:1]=[C:2]=[C:3]([O:4])[C:8]([H:9])([H:10])[H:11],3.5393335102
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:9][H:10].[H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-1.549541681
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-1.55341367509
[C:5][O:6][H:7].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][H:7],-4.19120675791
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2](\[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],4.83045320879
